### PR TITLE
muleAC, muleCA

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -1934,6 +1934,12 @@ Qed.
 
 Local Open Scope ereal_scope.
 
+Lemma muleCA : left_commutative (@mule R).
+Proof. by move=> x y z; rewrite muleC (muleC x) muleA. Qed.
+
+Lemma muleAC : right_commutative (@mule R).
+Proof. by move=> x y z; rewrite -muleA (muleC y) muleA. Qed.
+
```
Comment (proux01) [inline theories/ereal.v:1942]: What about adding
```Coq
Lemma muleACA : interchange (@mule R).
```
while you are at it?

**Review by proux01 — APPROVED** [review]
LGTM
